US09340507B2
48a: Benzo[b]thiophen-5-ylmethyl-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (3.88 g, 17.5 mmol) is added to a solution of benzo[b]thiophen-5-ylmethanamine (prepared as described in WO01068652, 2.00 g, 11.6 mmol) and triethylamine (1.78 g, 17.5 mmol) in dichloromethane (40 mL), and the mixture is stirred at room temperature for 1 h. Water is added, and the mixture is extracted three times with dichloromethane. The combined organic layers are dried over Na2SO4, concentrated under reduced pressure. The residue is crystallized from hot petroleum ether. Yield: 1.26 g; ESI mass spectrum: [M−C4H8+H]+=208; Retention time HPLC: 0.84 min (5-95AB).

reactant | Di-tert-butyl dicarbonate | 17.5 mmol, 3.88 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | benzo[b]thiophen-5-ylmethanamine | 11.6 mmol, 2.00 g | S1C2=C(C=C1)C=C(C=C2)CN | C9H9NS
reactant | triethylamine | 17.5 mmol, 1.78 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | Benzo[b]thiophen-5-ylmethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC2=C(SC=C2)C=C1)=O | C14H17NO2S
